US09315463B2
Ethyl 4-amino-2,5-difluorobenzoate
To a solution of 4-amino-2,5-difluorobenzonitrile (6.21 g, 38.28 mmol) in dioxane (32.5 mL) was added sulphuric acid 73% (52.2 mL) and the resulting mixture was stirred at 80° C. for 4 days. The crude reaction was added into water (250 mL) and basified with sodium hydroxide 32% (220 mL) until basic pH. The mixture was washed with methylene chloride and the aqueous phase was neutralized and extracted with ethyl acetate. The resulting organic phase was washed with brine, dried and filtered. The solvent was removed under reduced pressure to give the title compound as a white solid (42%), which was used in the next step without further purification.

reactant | 4-amino-2,5-difluorobenzonitrile | 38.28 mmol, 6.21 g | NC1=CC(=C(C#N)C=C1F)F | C7H4F2N2
reactant | sulphuric acid | 52.2 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 250 mL | O | H2O
reactant | sodium hydroxide | 220 mL | [OH-].[Na+]
reactant | dioxane | 32.5 mL | O1CCOCC1 | C4H8O2
product | Ethyl 4-amino-2,5-difluorobenzoate | 42% | NC1=CC(=C(C(=O)OCC)C=C1F)F | C9H9F2NO2
